US07109203B2
1 M NaOH solution (0.63 mmol, 1.0 eq) is added to a stirred solution of 2,4-dichloro-N-[1-(2-cyano-ethyl)-1H-tetrazol-5-ylmethyl]-N-[2-(indan-5-yloxy)-ethyl]benzene sulfonamide (0.325 g, 1 eq.) in tetrahydrofuran (3 ml) at room temperature and the reaction mixture stirred overnight. The reaction mixture is acidified with 1 M HCl solution to pH 3, and then extracted with EtOAc (20 ml). The organic extract is washed with 1 M HCl solution (2×5 ml), and then with brine (1×10 ml), dried over MgSO4, and concentrated to give a crude solid (0.211 g), which is triturated with Et2O, filtered, washed with Et2O and dried under suction. The solid is purified by preparative HPLC to give pure 2,4-dichloro-N-[2-(indan-5-yloxy)-ethyl]-N-(1H-tetrazol-5-ylmethyl)benzene-sulfonamide.

reactant | NaOH | 0.63 mmol, 1 M, 1.0 eq | [OH-].[Na+]
reactant | 2,4-dichloro-N-[1-(2-cyano-ethyl)-1H-tetrazol-5-ylmethyl]-N-[2-(indan-5-yloxy)-ethyl]benzene sulfonamide | 0.325 g, 1 eq. | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(CCOC=1C=C2CCCC2=CC1)CC1=NN=NN1CCC#N | C22H22Cl2N6O3S
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-N-[2-(indan-5-yloxy)-ethyl]-N-(1H-tetrazol-5-ylmethyl)benzene-sulfonamide | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(CC1=NN=NN1)CCOC=1C=C2CCCC2=CC1 | C19H19Cl2N5O3S
